US07141596B2
Step 5: (2S)-2-[(tert-butoxycarbonyl)amino]-3-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid
To a solution of benzyl N-(tert-butoxycarbonyl)-4-(2-tert-butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)-L-phenylalaninate (1.3 g, 2.4 mmol) in ethanol (35 mL) in a parr shaker, palladium (0.700 g, 6.58 mmol) (Pd, 10% by weight on activated carbon) was added and hydrogenated overnight at 50 psi. The suspension was filtered through celite and concentrated to give the crude product. The crude was purified on preparative LCMS to give the product (0.71 g, 65%). LCMS found for C21H3N2O7S (M+H)+: m/z=455.

reactant | benzyl N-(tert-butoxycarbonyl)-4-(2-tert-butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)-L-phenylalaninate | 2.4 mmol, 1.3 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)C1=CC(N(S1(=O)=O)C(C)(C)C)=O)C(=O)OCC1=CC=CC=C1 | C28H34N2O7S
solvent | ethanol | 35 mL | C(C)O | C2H6O
catalyst | palladium | 6.58 mmol, 0.700 g | [Pd] | Pd
product | (2S)-2-[(tert-butoxycarbonyl)amino]-3-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid | 0.71 g, 65% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1CC(N(S1(=O)=O)C(C)(C)C)=O | C21H30N2O7S
